US06084097
A mixture of 1-chloro-3-[2-oxopiperidin-yl]propane (2.1 g, 12 mmol), 1-(4-fluorophenyl)piperazine (2.16 g, 12 mmol), anhydrous Na2CO3 (0.618 g, 6.2 mmol) and Nal (0.18 g, 1.2 mmol) in dry DMF (10 ml) was stirred at 800.English Pound. for 14 hrs. The reaction mixture was cooled, poured on water (30 ml) and the separated residue was extracted with CHCl3 (2×35 ml). The extracts were dried over Na2SO4 and concentrated under reduced pressure to give 1-[4-(4-fluorophenyl)piperazin-1-yl]-3-[2-oxopiperidin-1-yl]propane as an oil which was purified by column chromatography over silica gel using chloroform as eluent, yield 2.40 g (63.0%).

reactant | 1-chloro-3-[2-oxopiperidin-yl]propane | 12 mmol, 2.1 g | ClCCCN1C(CCCC1)=O | C8H14ClNO
reactant | 1-(4-fluorophenyl)piperazine | 12 mmol, 2.16 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | Na2CO3 | 6.2 mmol, 0.618 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Nal | 1.2 mmol, 0.18 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-fluorophenyl)piperazin-1-yl]-3-[2-oxopiperidin-1-yl]propane | FC1=CC=C(C=C1)N1CCN(CC1)CCCN1C(CCCC1)=O | C18H26FN3O
